* File: nor2.pex.netlist.pex
* Created: Fri Apr 17 02:50:30 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%A 3 7 10 15
c13 15 0 0.00726709f
c14 10 0 0.00223625f
c15 9 0 0.00646528f
c16 7 0 0.0521315f
c17 3 0 0.017308f
r18 13 15 89.3538
r19 9 13 5.23355
r20 9 10 0.112924
r21 5 10 4.67564
r22 5 7 102.57
r23 1 10 4.67564
r24 1 3 20.67
.ends

.subckt PM_NOR2%VDD 2 3 13
c5 11 0 0.0078532f
c6 10 0 0.0123727f
c7 3 0 0.0141014f
c8 2 0 0.0145244f
r9 11 13 0.423846
r10 10 14 0.214449
r11 10 13 0.38
r12 5 11 0.212317
r13 3 5 1.47615
r14 2 14 1.23806
.ends

.subckt PM_NOR2%B 3 5 6 9 13 16
c15 16 0 0.00661575f
c16 14 0 0.00334111f
c17 13 0 0.00499711f
c18 12 0 0.00370666f
c19 9 0 0.0257388f
c20 6 0 0.00162333f
c21 5 0 0.00645957f
c22 3 0 0.0340563f
r23 16 19 89.3538
r24 13 19 5.98839
r25 13 14 0.112924
r26 11 14 4.67564
r27 11 12 13.26
r28 7 14 4.67564
r29 7 9 46.02
r30 5 12 4.35808
r31 5 6 8.19
r32 1 6 4.35808
r33 1 3 56.16
.ends

.subckt PM_NOR2%Y 1 2 7 8 16 19
c18 19 0 0.00702425f
c19 16 0 0.0174131f
c20 8 0 0.00222378f
c21 7 0 0.00725752f
c22 2 0 0.0190295f
c23 1 0 0.00836266f
r24 17 19 0.394615
r25 14 19 0.0223169
r26 14 16 0.906154
r27 13 16 1.06692
r28 9 17 0.0223169
r29 7 13 0.212317
r30 7 8 1.14
r31 3 8 0.212317
r32 2 9 1.56385
r33 1 3 0.774615
.ends

.subckt PM_NOR2%GND 1 2 4 17 20
c13 25 0 0.00215231f
c14 17 0 0.0307877f
c15 12 0 0.00793329f
c16 11 0 0.00541438f
c17 4 0 0.00972339f
c18 2 0 0.0106176f
c19 1 0 0.00700336f
r20 18 25 0.160909
r21 18 20 1.02308
r22 17 21 0.212317
r23 17 20 2.04615
r24 13 25 0.0418175
r25 11 25 0.160909
r26 11 12 0.833077
r27 6 12 0.212317
r28 4 6 0.833077
r29 2 21 0.833077
r30 1 13 0.833077
.ends

