************************************************************************
* auCdl Netlist:
* 
* Library Name:  Library_Jin
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Apr 18 17:29:36 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Library_Jin
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTL W=90n L=50n m=1
MM1 Output Input VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

