* File: and2.pex.netlist.pex
* Created: Sat Apr 18 17:47:36 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND2%B 3 7 9 10 12 15
c17 15 0 0.0317654f
c18 10 0 0.00153797f
c19 9 0 0.00914441f
c20 7 0 0.0370293f
c21 3 0 0.0205752f
r22 15 16 89.3538
r23 12 15 3.67138
r24 9 16 14.64
r25 9 10 0.266723
r26 5 10 4.08464
r27 5 7 71.76
r28 1 10 4.08464
r29 1 3 31.2
.ends

.subckt PM_AND2%A 3 5 6 11 13 14 16 19
c27 19 0 0.0397857f
c28 14 0 0.00284914f
c29 13 0 0.00737734f
c30 11 0 0.0272502f
c31 8 0 0.0039273f
c32 6 0 0.00163426f
c33 5 0 0.00660467f
c34 3 0 0.021345f
r35 19 20 89.3538
r36 16 19 5.396
r37 13 20 14.64
r38 13 14 0.266723
r39 9 14 4.08464
r40 9 11 47.58
r41 8 14 4.08464
r42 7 8 14.04
r43 5 7 4.35808
r44 5 6 8.58
r45 1 6 4.35808
r46 1 3 33.54
.ends

.subckt PM_AND2%NET10 3 7 9 10 11 12 17 18 24 27 29 34 36 39
c51 39 0 0.0215383f
c52 36 0 0.00588966f
c53 34 0 0.00502145f
c54 29 0 0.00582191f
c55 27 0 0.00214547f
c56 24 0 0.00822053f
c57 18 0 0.00291775f
c58 17 0 0.0033816f
c59 12 0 0.00968887f
c60 11 0 0.0101306f
c61 10 0 0.00403703f
c62 9 0 0.0095181f
c63 7 0 0.030798f
c64 3 0 0.0273667f
r65 36 37 0.546615
r66 29 30 80.1018
r67 27 39 0.207151
r68 27 29 0.456
r69 26 36 0.0223169
r70 26 39 3.21538
r71 24 36 0.19
r72 23 34 0.0223169
r73 23 24 1.14
r74 19 34 0.336154
r75 17 37 0.0165691
r76 17 18 0.985185
r77 13 18 0.213083
r78 12 13 0.861333
r79 11 19 0.671333
r80 9 30 5.73405
r81 9 10 0.477301
r82 5 10 5.3213
r83 5 7 38.22
r84 1 10 5.3213
r85 1 3 33.15
.ends

.subckt PM_AND2%GND 1 2 5 6 20 23 25 31 43 44
c30 44 0 0.0172969f
c31 43 0 0.004859f
c32 39 0 0.00269582f
c33 31 0 0.00713812f
c34 25 0 0.00513518f
c35 20 0 0.045717f
c36 15 0 0.00520472f
c37 14 0 0.00525627f
c38 6 0 0.00778869f
c39 5 0 0.0102092f
c40 2 0 0.00882234f
c41 1 0 0.0082843f
r42 42 43 0.170345
r43 33 44 0.00840123
r44 31 44 0.2058
r45 31 43 0.963571
r46 26 42 0.0427948
r47 25 42 0.314483
r48 24 25 0.613846
r49 21 39 0.172886
r50 21 23 4.50154
r51 20 24 0.212317
r52 20 23 0.672308
r53 16 39 0.0321189
r54 14 39 0.172886
r55 14 15 0.72069
r56 9 15 0.231705
r57 6 26 0.906154
r58 5 9 0.964615
r59 2 33 0.64
r60 1 16 0.823333
.ends

.subckt PM_AND2%VDD 3 4 5 6 7 16 21 27 30 36 37 45 47
c28 47 0 0.0170935f
c29 45 0 0.00472999f
c30 44 0 0.00251163f
c31 37 0 0.00553521f
c32 36 0 0.00706921f
c33 27 0 0.0111003f
c34 21 0 0.0221063f
c35 16 0 0.00737739f
c36 15 0 0.00515288f
c37 7 0 0.00797473f
c38 6 0 0.0101365f
c39 5 0 0.0104792f
c40 4 0 0.010019f
c41 3 0 0.00937912f
r42 38 47 0.000591796
r43 37 46 0.187121
r44 36 47 0.217884
r45 36 37 1.03769
r46 31 46 0.0252118
r47 28 45 0.180951
r48 28 30 0.818462
r49 27 46 0.590151
r50 27 30 0.584615
r51 23 45 0.0259362
r52 22 44 0.180951
r53 21 45 0.180951
r54 21 22 3.01077
r55 17 44 0.0259362
r56 15 44 0.180951
r57 15 16 0.803846
r58 10 16 0.212317
r59 7 31 1.02308
r60 6 10 0.964615
r61 5 38 0.67
r62 4 23 0.836
r63 3 17 0.836
.ends

.subckt PM_AND2%Y 1 2 13 15
c13 15 0 0.00107713f
c14 13 0 0.0248245f
c15 2 0 0.0182412f
c16 1 0 0.0159462f
r17 11 15 0.0883294
r18 11 13 2.23615
r19 7 15 0.113465
r20 3 15 0.113465
r21 2 7 1.00359
r22 1 3 0.906154
.ends

